US07763584B2
To a solution of (2S,4R)-methyl 4-(biphenyl-4-yl)-4-methoxypyrrolidine-2-carboxylate (150 mg, 0.482 mmol), (S)-2-(tert-butoxycarbonylamino)non-8-enoic acid (144 mg, 0.530 mmol), and HATU (260 mg, 0.723 mmol) in DCM (5 ml) was added N,N-diisopropylethylamine (0.252 ml, 1.445 mmol) at 0° C. The reaction mixture was allowed to warm to rt and was stirred for 18 h. It was then diluted with DCM, washed with 5% citric acid, and brine, dried(MgSO4), filtered, and concentrated in vacuo. The residue was purified by prep-HPLC to yield 2S,4R)-methyl 4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)non-8-enoyl)-4-methoxypyrrolidine-2-carboxylate (140 mg, 51.5% yield) as white foam.

reactant | (2S,4R)-methyl 4-(biphenyl-4-yl)-4-methoxypyrrolidine-2-carboxylate | 0.482 mmol, 150 mg | C1(=CC=C(C=C1)[C@@]1(C[C@H](NC1)C(=O)OC)OC)C1=CC=CC=C1 | C19H21NO3
reactant | (S)-2-(tert-butoxycarbonylamino)non-8-enoic acid | 0.530 mmol, 144 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCCC=C | C14H25NO4
reactant | HATU | 0.723 mmol, 260 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.445 mmol, 0.252 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-(biphenyl-4-yl)-1-((S)-2-(tert-butoxycarbonylamino)non-8-enoyl)-4-methoxypyrrolidine-2-carboxylate | 140 mg, 51.5% yield | C1(=CC=C(C=C1)C1(CC(N(C1)C([C@H](CCCCCC=C)NC(=O)OC(C)(C)C)=O)C(=O)OC)OC)C1=CC=CC=C1 | C33H44N2O6
